US08871753B2
Step A. 4-(2-Bromo-5-methyl-4-nitrophenyl)morpholine
1-Bromo-2-fluoro-4-methyl-5-nitrobenzene (1.0 g, 4.3 mmol) [Aldrich] was stirred in N,N-dimethylformamide (10 mL) with potassium carbonate (1.5 g, 11.0 mmol), and morpholine (0.56 mL, 6.4 mmol) was added. The mixture was stirred for 3 hours and diluted with saturated sodium bicarbonate solution. Extraction with ethyl acetate gave the desired compound (1.0 g, 77%). LCMS for C11H14BrN2O3 (M+H)+: m/z=301.0.

reactant | 1-Bromo-2-fluoro-4-methyl-5-nitrobenzene | 4.3 mmol, 1.0 g | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C)F | C7H5BrFNO2
reactant | potassium carbonate | 11.0 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 6.4 mmol, 0.56 mL | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-(2-Bromo-5-methyl-4-nitrophenyl)morpholine | 1.0 g, 77% | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C)N1CCOCC1 | C11H13BrN2O3
